US08748624B2
STEP B: ethyl 3-(5-(5-chloro-2-((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate
Neat Et3N (0.14 mL, 1.0 mmol) was added to a DCM mixture (5 mL) of 2-(6-((2-carboxyethyl)carbamoyl)pyridin-3-yl)-4-chlorobenzoic acid (226 mg, 0.6 mmol), 4′-chloro-2′-methyl-[1,1′-biphenyl]-4-amine (109 mg, 0.5 mmol), and EDCI (192 mg, 1.0 mmol) and the resulting mixture was stirred at room temperature. After 3 h the resulting mixture was directly purified via column chromatography to yield the title compound.

reactant | Et3N | 1.0 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | 2-(6-((2-carboxyethyl)carbamoyl)pyridin-3-yl)-4-chlorobenzoic acid | 0.6 mmol, 226 mg | C(=O)(O)CCNC(=O)C1=CC=C(C=N1)C1=C(C(=O)O)C=CC(=C1)Cl | C16H13ClN2O5
reactant | 4′-chloro-2′-methyl-[1,1′-biphenyl]-4-amine | 0.5 mmol, 109 mg | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)N)C | C13H12ClN
reactant | EDCI | 1.0 mmol, 192 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(5-(5-chloro-2-((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C(NC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)C)=O | C31H27Cl2N3O4
